US08114868B2
3-(4-Bromo-2-oxo-2H-pyridin-1-yl)-2-methyl-propionic acid methyl ester
A mixture of 4-bromo-1H-pyridin-2-one (0.50 g), methyl 2-bromoisobutyrate (0.45 mL), and potassium carbonate (0.68 g) in dimethylformamide (5 mL) was stirred at 60° C. for 3 h. After cooling to ambient temperature, water was added and the resulting mixture was extracted with ethyl acetate. The combined extracts were washed with brine, dried (MgSO4), and concentrated. The residue was purified by chromatography on silica gel (cyclohexane/ethyl acetate 70:30->50:50) to afford the title compound. Yield: 0.53 g (67% of theory); Mass spectrum (ESI+): m/z=274/276 (Br) [M+H]+. Additionally 2-(4-bromo-pyridin-2-yloxy)-2-methyl-propionic acid methyl ester was obtained (Yield: 0.15 g; Mass spectrum (ESI+): m/z=274/276 (Br) [M+H]+)

reactant | 4-bromo-1H-pyridin-2-one | 0.50 g | BrC1=CC(NC=C1)=O | C5H4BrNO
reactant | methyl 2-bromoisobutyrate | 0.45 mL | BrC(C(=O)OC)(C)C | C5H9BrO2
reactant | potassium carbonate | 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(4-Bromo-2-oxo-2H-pyridin-1-yl)-2-methyl-propionic acid methyl ester | COC(C(CN1C(C=C(C=C1)Br)=O)C)=O | C10H12BrNO3
